US06225316B1
b) 5-Bromo-2-(4-methyl-piperazin-1-yl)-isonicotinic acid ethyl ester
A solution of 0.91 ml (17.7 mmol) Br2 was added dropwise to a solution of 2.95 g (11.8 mmol) 2-(4-methyl-piperazin-1-yl)-isonicotinic acid ethyl ester in 20 ml dichloromethane at 0° C.-4° C. Stirring was continued at room temperature for 1 h and 50 ml saturated sodium bicarbonate solution in water was added. The aqueous layer was separated and washed twice with dichloromethane. The combined organic layers were dried (magnesium sulfate) and evaporated. The residue was purified by chromatography to give 1.45 g (37%) of the title compound as a pale yellow oil.

reactant | Br2 | 17.7 mmol, 0.91 ml | BrBr | Br2
reactant | 2-(4-methyl-piperazin-1-yl)-isonicotinic acid ethyl ester | 11.8 mmol, 2.95 g | C(C)OC(C1=CC(=NC=C1)N1CCN(CC1)C)=O | C13H19N3O2
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-Bromo-2-(4-methyl-piperazin-1-yl)-isonicotinic acid ethyl ester | 1.45 g, 37% | C(C)OC(C1=CC(=NC=C1Br)N1CCN(CC1)C)=O | C13H18BrN3O2
